US07122692B2
20 ml of acetoxytrimethylsilane and 11.4 ml of commercial methacrylic acid (ATOFINA Norsocryl® MAA) in 100 ml of hexane are mixed and heated. Azeotropic distillation of acetic acid affords trimethylsilyl methacrylate.

reactant | acetoxytrimethylsilane | 20 ml | C(C)(=O)O[Si](C)(C)C | C5H12O2Si
reactant | methacrylic acid | 11.4 ml | C(C(=C)C)(=O)O | C4H6O2
solvent | hexane | 100 ml | CCCCCC | C6H14
product | trimethylsilyl methacrylate | C(C(=C)C)(=O)O[Si](C)(C)C | C7H14O2Si
